US06359134B1
1-(6-Chloronaphthalene-2-sulfonyl)-4-[trans-4-(2-imidazolinylamino)cyclohexane-1-ylcarbonyl]piperazine hydrochloride
To a solution of 1-(trans-4-aminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride (100 mg) and triethylamine (120 mg) in ethanol (10 ml) was added 2-methylthioimidazoline (116 mg), and the mixture was heated for 48 hours under reflux. The reaction solution was concentrated, and the residue was purified with silica gel column chromatography (dichloromethane/methanol containing 10% ammonia=10/1) and transformed into hydrochloride with 4 N hydrochloric acid in ethyl acetate to give a colorless solid of the title compound (30 mg).

reactant | 1-(trans-4-aminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine hydrochloride | 100 mg | Cl.N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl
reactant | triethylamine | 120 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methylthioimidazoline | 116 mg | CSC=1NCCN1 | C4H8N2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(6-Chloronaphthalene-2-sulfonyl)-4-[trans-4-(2-imidazolinylamino)cyclohexane-1-ylcarbonyl]piperazine hydrochloride | 30 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)NN1C=NCC1 | InChI=1S/C24H30ClN5O3S.ClH/c25-21-5-1-20-16-23(8-4-19(20)15-21)34(32,33)30-13-11-28(12-14-30)24(31)18-2-6-22(7-3-18)27-29-10-9-26-17-29;/h1,4-5,8,15-18,22,27H,2-3,6-7,9-14H2;1H/t18-,22-;
